US05614544
After a mixture of 5-[4-[2-[2-(2-furyl)-5-methyl-4-oxazolyl]ethyl]phenyl]pentan-1-al (2.2 g), sodium cyanide (0.383 g), acetic anhydride (0.796 g), benzyltributylammonium chloride (0.608 g) and dichloromethane (40 ml)water (10 ml) was stirred at room temperature for 2 hours, the organic layer was separated, washed with water, dried (MgSO4), and then concentrated under reduced pressure, to yield 2-acetoxy-6-[4-[2-[2-(2-furyl)-5-methyl-4-oxazolyl]ethyl]phenyl]hexanenitrile as an oily substance.

reactant | 5-[4-[2-[2-(2-furyl)-5-methyl-4-oxazolyl]ethyl]phenyl]pentan-1-al | 2.2 g | O1C(=CC=C1)C=1OC(=C(N1)CCC1=CC=C(C=C1)CCCCC=O)C | C21H23NO3
reactant | sodium cyanide | 0.383 g | [C-]#N.[Na+]
reactant | acetic anhydride | 0.796 g | C(C)(=O)OC(C)=O | C4H6O3
catalyst | benzyltributylammonium chloride | 0.608 g | [Cl-].C(C1=CC=CC=C1)[N+](CCCC)(CCCC)CCCC
solvent | dichloromethane | 40 ml | ClCCl | CH2Cl2
product | 2-acetoxy-6-[4-[2-[2-(2-furyl)-5-methyl-4-oxazolyl]ethyl]phenyl]hexanenitrile | C(C)(=O)OC(C#N)CCCCC1=CC=C(C=C1)CCC=1N=C(OC1C)C=1OC=CC1 | C24H26N2O4
